US08487094B2
To a solution of (S)-3-((R)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-6-(2-hydroxyethyl)-1,3-oxazinan-2-one (109 mg, 0.26 mmol), 2,4-difluorophenylboronic acid (49 mg, 0.31 mmol) and Pd(PPh3)4 (30 mg, 0.03 mmol) in dioxane (8 mL) was added a solution of CsCO3 (2 M, 1 mL) at 0. Then the reaction mixture was refluxed overnight under nitrogen. The reaction mixture was washed with water and then extract with CH2Cl2 twice. The combined organic phases were dried over Na2SO4, filtered and concentrated to give the residue, which was purified by preparative HPLC to afford (S)-3-((R)-1-(2′,4′-difluorobiphenyl-4-yl)ethyl)-6-(4-fluorophenyl)-6-(2-hydroxyethyl)-1,3-oxazinan-2-one (49 mg, 42%). LC-MS Method 3 tR=1.41, min, m/z=456; 1H NMR (CD3OD): 1.55 (m, 3H), 2.12 (m, 2H), 2.22-2.46 (m, 3H), 2.52 (m, 1H), 3.12 (m, 1H), 3.33 (m, 1H), 3.68 (m, 1H), 5.56 (m, 1H), 7.08 (m, 6H), 7.08 (m, 2H), 7.35 (m, 5H). 443-155-3.

reactant | (S)-3-((R)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-6-(2-hydroxyethyl)-1,3-oxazinan-2-one | 0.26 mmol, 109 mg | BrC1=CC=C(C=C1)[C@@H](C)N1C(O[C@@](CC1)(CCO)C1=CC=C(C=C1)F)=O | C20H21BrFNO3
reactant | 2,4-difluorophenylboronic acid | 0.31 mmol, 49 mg | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-3-((R)-1-(2′,4′-difluorobiphenyl-4-yl)ethyl)-6-(4-fluorophenyl)-6-(2-hydroxyethyl)-1,3-oxazinan-2-one | 49 mg, 42% | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)[C@@H](C)N1C(O[C@@](CC1)(CCO)C1=CC=C(C=C1)F)=O | C26H24F3NO3
